US07646014B2
(2) Synthesis of 4-[6-(3,4,5-Trifluoro-Phenoxy)-Hexyloxy]-Benzoyl Chloride
About 10 g (about 27.148 mmol) of 4-[6-(3,4,5-Trifluoro-phenoxy)-hexyloxy]-benzoic acid was dissolved in about 200 ml of methylene chloride, and then added with about 3.55 g (about 29.862 mmol) of thionyl chloride. The reaction mixture was stirred at about 35° C. for about 6 hours, and the solvent was removed. Through a vacuum drying process, the desired compound was obtained (Yield about 95%).

reactant | 4-[6-(3,4,5-Trifluoro-phenoxy)-hexyloxy]-benzoic acid | about 27.148 mmol, 10 g | FC=1C=C(OCCCCCCOC2=CC=C(C(=O)O)C=C2)C=C(C1F)F | C19H19F3O4
reactant | thionyl chloride | about 29.862 mmol, about 3.55 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | about 200 ml | C(Cl)Cl | CH2Cl2
product | 4-[6-(3,4,5-Trifluoro-Phenoxy)-Hexyloxy]-Benzoyl Chloride | Yield about 95% | FC=1C=C(OCCCCCCOC2=CC=C(C(=O)Cl)C=C2)C=C(C1F)F | C19H18ClF3O3
